Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Need for colonoscopy 
 
Major Surgical or Invasive Procedure:
___ - EGD and colonoscopy
 
History of Present Illness:
___ with h/o Down Syndrome, cognitive decline, hypothyroidism, 
hyperlipidemia, recent vomiting and diarrhea, who presents for a 
direct admission for in house colonoscopy prep.  
 
The patient was seen in ER ___ with diarrhea and vomiting. In 
the months preceding the ER visit he had a few episodes of stool 
incontinence. In the ER at that time, WBC was elevated at 16K, 
abdominal US was unremarkable, CT abdomen and pelvis showed 
fluid fill nondilated bowel loops c/w gastroenteritis. He 
subsequently followed up with his PCP, who recommended EGD and 
Colonoscopy given complaint of abdominal pain and an increase in 
diarrhea.  
 
The patient lives in a group home not equipped to handle 
colonoscopy prep, so he was admitted for prep. On arrival to the 
floor, the patient endorsed mild abdominal pain, but denied 
fevers, chest pain, dyspnea, nausea, or vomiting.

ROS: Limited by mental status 
 
Past Medical History:
Down Syndrome  
Hyperlipidemia  
Hypothyroidism  
Cognitive Decline  
Widened atlantodental interval on cervical spine imaging  
 
Social History:
___
Family History:
Mother - OA, HTN  
Father - ___, DM  
MGF - CAD, MI  
PGF - MI  
Uncle - CAD  
 
Physical ___:
ADMISSION PHYSICAL EXAM:  
==========================
VITAL SIGNS: T 98.0, BP 114/76, HR 50, Sat 100% RA
GENERAL: Pleasant, alert, and interactive. NAD.
HEENT: White sclera, MMM.
CARDIAC: RRR. Normal S1 and S2. No murmurs.
LUNGS: Lungs CTAB. No wheezes, rhonchi, or rales. No increased
WOB. 
ABDOMEN: Soft, NTND. No organomegaly.
EXTREMITIES: No ___ edema. WWP. 2+ DP pulses. 
NEUROLOGIC: No visible facial asymmetry. Moving all 4 
extremities
with purpose.
SKIN: No visible rashes or abrasions of face, back, UE, or ___. 

DISCHARGE PHYSICAL EXAM:  
==========================
VITAL SIGNS: 24 HR Data (last updated ___ @ 2355)
    Temp: 97.6 (Tm 98.7), BP: 109/67 (99-126/55-79), HR: 50
(45-69), RR: 20 (___), O2 sat: 96% (96-98), O2 delivery: RA  
GENERAL: Pleasant, alert, and interactive. NAD.
HEENT: White sclera, MMM.
CARDIAC: RRR. Normal S1 and S2. No murmurs.
LUNGS: Lungs CTAB. No wheezes, rhonchi, or rales. No increased
WOB. 
ABDOMEN: Soft, NTND. No organomegaly.
EXTREMITIES: No ___ edema. WWP. 2+ DP pulses. 
NEUROLOGIC: No visible facial asymmetry. Moving all 4 
extremities
with purpose.
SKIN: No visible rashes or abrasions of face, back, UE, or ___. 
 
Pertinent Results:
ADMISSION LABS:
=================
___ 08:00AM BLOOD WBC-3.5* RBC-4.36* Hgb-14.4 Hct-42.4 
MCV-97 MCH-33.0* MCHC-34.0 RDW-13.2 RDWSD-47.7* Plt ___
___ 08:00AM BLOOD Glucose-83 UreaN-14 Creat-0.9 Na-141 
K-4.2 Cl-105 HCO3-25 AnGap-11
___ 08:00AM BLOOD Albumin-3.6 Calcium-8.8 Phos-3.5 Mg-1.9
___ 08:00AM BLOOD ALT-57* AST-30 LD(LDH)-138 AlkPhos-78 
TotBili-3.5*

DISCHARGE LABS:
=================
___ 08:00AM BLOOD Glucose-70 UreaN-13 Creat-0.9 Na-139 
K-4.0 Cl-102 HCO3-25 AnGap-12
___ 08:00AM BLOOD Calcium-8.7 Phos-3.5 Mg-1.8

IMAGING/RESULTS:
==================
EGD ___:
IMPRESSIONS: Irregular z-line in the EG junction. Normal mucosa 
in the whole stomach. Normal mucosa in the duodenum.

COLONOSCOPY ___:
IMPRESSIONS: Normal mucosa in the whole colon and 10cm into the 
terminal ileum. Erythema in the 60 cm. High residue material was 
noted throughout. Multiple attempts were made to irrigate the 
colon but the mucosa could not be visualize adequately. Internal 
hemorrhoids. 
 
Brief Hospital Course:
Mr. ___ is a ___ with h/o Down Syndrome, cognitive decline, 
hyperlipidemia, and hypothyroidism, who presents from his group 
home for inpatient prep for diagnostic colonoscopy/EGD, for the 
workup of ongoing nausea, abdominal pain, and diarrhea.

ACTIVE ISSUES:
==============
# Diagnostic colonoscopy and EGD
# Nausea, vomiting, abdominal pain
Patient presents with n/v/d and lower abdominal pain since 
___, with leukocytosis at that time and CT showing e/o 
gastroenteritis. Given ongoing abdominal symptoms and diarrhea, 
patient was referred by his PCP for EGD and colonoscopy. As the 
patient lives at a group home unequipped to manage colonoscopy 
prep, he was admitted for prep. He underwent colonoscopy prep. 
He was originally scheduled for ___ on ___, but this was 
deferred to ___ due to difficulty with obtaining consent from a 
HCP (who was out of town, but his HCP alternate was ultimately 
contacted). His EGD and colonoscopy were done on ___ and 
appeared largely normal (other than some bowel erythema at 60cm, 
internal hemorrhoids, and an irregular z-line at the GEJ), with 
multiple biopsies taken. However, the prep was insufficient to 
rule out colorectal cancer. Cologuard testing is recommended for 
colorectal cancer screening as an outpatient. For what it is 
worth, the patient did not complain of significant abdominal 
pain during the hospital stay, and had no nausea and vomiting.

CHRONIC ISSUES:
===============
# Cognitive Decline 
Continued on home Donezepil 10mg 

# HLD 
Continued on home Atorvastatin 80mg 

# Levothyroxine 
Continued on home Levothyroxine 150mg 

TRANSITIONAL ISSUES:
======================
- F/u endoscopy biopsy results
- Prep was insufficient for screening for colorectal cancer. 
Recommend cologuard testing as an outpatient for colorectal 
cancer screening.

>30 minutes spent in discharge related activities.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Donepezil 10 mg PO QHS 
3. Levothyroxine Sodium 150 mcg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM  
2.  Donepezil 10 mg PO QHS  
3.  Levothyroxine Sodium 150 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Abdominal Pain

SECONDARY DIAGNOSES:
Down Syndrome
Levothyroxine
Hyperlipidemia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your 
hospitalization!

WHY WERE YOU ADMITTED?
- You were admitted for preparation prior to colonoscopy.

WHAT HAPPENED DURING YOUR HOSPITALIZATION?
- You underwent bowel preparation for colonoscopy.
- You had an EGD and colonoscopy which appeared normal. However, 
multiple biopsies were taken, and these results will come back 
in about one week's time.

WHAT SHOULD YOU DO ONCE YOU LEAVE THE HOSPITAL?
- Continue to take all of your medications as prescribed.
- Follow up with your doctors as noted below.
- Your biopsy results will be discussed as an outpatient.

Again, it was a pleasure taking care of you during your 
hospitalization!

All the best,
Your ___ Team

 
Followup Instructions:
___